US08859544B2
6-[(1-Methoxy-2-methylindolizin-3-yl)carbonyl]-3-[(3-methyl-1,2,4-oxadiazol-5-yl)methyl]quinazoline-2,4(1H,3H)-dione
0.14 g (0.37 mmol) of HBTU, 0.21 ml (1.23 mmol) of DIEA and then 0.18 g (1.23 mmol) of (1E)-N′-hydroxyethanimidamide are added, under an inert atmosphere at ambient temperature, to 0.1 g (0.25 mmol) of methyl {6-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]-2,4-dioxo-1,4-dihydroquinazolin-3(2H)-yl}acetate in 5 ml of DMF. The reaction medium is heated at 90° C. for 24 hours. After hydrolysis with water, the reaction medium is extracted with ethyl acetate. The organic phase is washed with a saturated aqueous solution of sodium hydrogen carbonate and then with water, dried over sodium sulphate, filtered, and then concentrated under reduced pressure. The yellow solid obtained is purified by silica gel column chromatography, elution being carried out with a dichloromethane/methanol (95/5) mixture. 0.046 g of a yellow solid is obtained.

reactant | HBTU | 0.37 mmol, 0.14 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.23 mmol, 0.21 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | (1E)-N′-hydroxyethanimidamide | 1.23 mmol, 0.18 g | O/N=C(\C)/N | C2H6N2O
reactant | methyl {6-[(1-methoxy-2-methylindolizin-3-yl)carbonyl]-2,4-dioxo-1,4-dihydroquinazolin-3(2H)-yl}acetate | 0.25 mmol, 0.1 g | COC=1C(=C(N2C=CC=CC12)C(=O)C=1C=C2C(N(C(NC2=CC1)=O)CC(=O)OC)=O)C | C22H19N3O6
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-[(1-Methoxy-2-methylindolizin-3-yl)carbonyl]-3-[(3-methyl-1,2,4-oxadiazol-5-yl)methyl]quinazoline-2,4(1H,3H)-dione | 0.046 g | COC=1C(=C(N2C=CC=CC12)C(=O)C=1C=C2C(N(C(NC2=CC1)=O)CC1=NC(=NO1)C)=O)C | C23H19N5O5
